US03964896
Phthalamic acid (240 g, 1.37 moles) in methylenechloride (1.7 l) was stirred and cooled to <5° in an ice bath. Triethylamine (244 ml, 176 g, 1.74 moles) was added and a clear solution was obtained. Methyl chloroformate (200 g, 163 ml, 2.1 moles) was added at such a rate that the temperature did not exceed 5°. As the addition continued, triethylamine hydrochloride precipitated and carbon dioxide was evolved. On completion of the addition, the ice bath was removed and stirring was continued for 12-20 hrs. at room temperature. Triethylamine hydrochloride was removed by filtration and the methylene chloride evaporated. The residue was dissolved in ether (2 l), and this ether solution washed with water, dried over anhydrous sodium sulfate and evaporated. Distillation under reduced pressure gave methyl 2-cyanobenzoate, b.p. 125° at 2.5 mm, 215 g (97%), a solid at room temperature, M.P. 45°-6°.

reactant | Phthalamic acid | 1.37 moles, 240 g | C(C=1C(C(=O)N)=CC=CC1)(=O)O | C8H7NO3
reactant | Triethylamine | 1.74 moles, 244 ml, 176 g | C(C)N(CC)CC | C6H15N
reactant | Methyl chloroformate | 2.1 moles, 163 ml, 200 g | ClC(=O)OC | C2H3ClO2
solvent | methylenechloride | 1.7 l | C(Cl)Cl | CH2Cl2
product | methyl 2-cyanobenzoate | C(#N)C1=C(C(=O)OC)C=CC=C1 | C9H7NO2
